US06897231B2
B. 3-(3-Aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide
To a solution of 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (0.500 g, 1.54 mmol) in 15 mL of ethylene glycol dimethyl ether, was added 3-aminophenyl boronic acid (0.358 g, 2.31 mmol), [1,1′-bis(diphenylphosphino)-ferrocene] complex with dichloromethane (1:1) (0.178 g, 0.098 mmol), and potassium phosphate (1.63 g, 7.7 mmol). The reaction mixture was heated to reflux temperature of the solvent for 18 hours. The solvent was then removed under reduced pressure and the crude was partitioned between ethyl acetate and water. The title compound was purified by column chromatography (SiO2, 6% MeOH in CH2Cl2) (0.457 g, 88% yield): ES-MS (m/z) 337 [M+H]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 1.54 mmol, 0.500 g | BrC1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C13H14BrN3O2
reactant | 3-aminophenyl boronic acid | 2.31 mmol, 0.358 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | dichloromethane | 0.098 mmol, 0.178 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 7.7 mmol, 1.63 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 15 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-(3-Aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 88% yield | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
